US05834463
(3aR*,10aS*)-9-Benzyl-7-fluoro-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
Employing 9-benzyl-7-fluoro-2,3,9,10a-tetrahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one, the titled compound was synthesized by substantially the same procedure as in Reference Example 15. Yield 94%. m.p.124°-126° C. (diethyl ether).

reactant | 9-benzyl-7-fluoro-2,3,9,10a-tetrahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | C(C1=CC=CC=C1)N1C2=C(N=C3C(C1=O)CCC3)C=CC(=C2)F | C19H17FN2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3aR*,10aS*)-9-Benzyl-7-fluoro-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | Yield 94% | C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@@H](C1=O)CCC3)C=CC(=C2)F | C19H19FN2O
